US07994185B2
N-{3-[5-(2-amino-4-pyrimidinyl)-2-(1,1-dimethylethyl)-1,3-thiazol-4-yl]-2-fluorophenyl}-1-methyl-1H-imidazole-2-sulfonamide hydrochloride
Following a procedure analogous to the procedure described in Example 282 using N-{3-[5-(2-chloro-4-pyrimidinyl)-2-(1,1-dimethylethyl)-1,3-thiazol-4-yl]-2-fluorophenyl}-1-methyl-1H-imidazole-2-sulfonamide (560 mg, 1.10 mmol) and ammonium hydroxide (15 ml), the title compound was obtained as a white solid (156 mg, 27%). 1HNMR (MEOD-d4): δ ppm 8.06 (br s, 1H), 7.66 (s, 1H), 7.53-7.58 (m, 2H), 7.44 (s, 1H), 7.36-7.40 (t, J=8.0 Hz, 1H), 6.47-6.51 (m, 1H), 4.06 (s, 3H), 1.50 (s, 9H). MS: 488 [M+H]+.

reactant | N-{3-[5-(2-chloro-4-pyrimidinyl)-2-(1,1-dimethylethyl)-1,3-thiazol-4-yl]-2-fluorophenyl}-1-methyl-1H-imidazole-2-sulfonamide | 1.10 mmol, 560 mg | ClC1=NC=CC(=N1)C1=C(N=C(S1)C(C)(C)C)C=1C(=C(C=CC1)NS(=O)(=O)C=1N(C=CN1)C)F | C21H20ClFN6O2S2
reactant | ammonium hydroxide | 15 ml | [OH-].[NH4+]
product | N-{3-[5-(2-amino-4-pyrimidinyl)-2-(1,1-dimethylethyl)-1,3-thiazol-4-yl]-2-fluorophenyl}-1-methyl-1H-imidazole-2-sulfonamide hydrochloride | Cl.NC1=NC=CC(=N1)C1=C(N=C(S1)C(C)(C)C)C=1C(=C(C=CC1)NS(=O)(=O)C=1N(C=CN1)C)F | InChI=1S/C21H22FN7O2S2.ClH/c1-21(2,3)18-27-16(17(32-18)14-8-9-24-19(23)26-14)12-6-5-7-13(15(12)22)28-33(30,31)20-25-10-11-29(20)4;/h5-11,28H,1-4H3,(H2,23,24,26);1H
